US06380218B1
2-(Benzo[1,3]dioxol-5-yloxy)-N-[2-fluoro-4-(1-hydroxy-1-methyl-ethyl)-benzyl]-nicotinamide
Prepared from 2-(Benzo[1,3]dioxol-5-yloxy)-nicotinic acid and and 2-(4-Aminomethyl-3-fluoro-phenyl)-propan-2-ol.

reactant | 2-(Benzo[1,3]dioxol-5-yloxy)-nicotinic acid | O1COC2=C1C=CC(=C2)OC2=C(C(=O)O)C=CC=N2 | C13H9NO5
reactant | 2-(4-Aminomethyl-3-fluoro-phenyl)-propan-2-ol | NCC1=C(C=C(C=C1)C(C)(C)O)F | C10H14FNO
product | 2-(Benzo[1,3]dioxol-5-yloxy)-N-[2-fluoro-4-(1-hydroxy-1-methyl-ethyl)-benzyl]-nicotinamide | O1COC2=C1C=CC(=C2)OC2=C(C(=O)NCC1=C(C=C(C=C1)C(C)(C)O)F)C=CC=N2 | C23H21FN2O5
